US06969724B2
(±)-1-Benzyloxy-7-[(4-phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one
600 mg (0.00165 mol) of (±)-1-hydroxy-7-[(4-phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one were dissolved in 100 mL of abs. EtOH under a nitrogen atmosphere, then 228 mg (0.00165 mol) of anhydrous K2CO3 and a catalytic amount of KI were added, followed by 0.216 mL (0.0018 mol) of benzylbromide. The reaction mixture was stirred 3 h at room temperature, then 0.216 mL of benzylbromide were added and the stirring continued overnight. Further 0.216 mL of benzylbromide was added and the reaction stirred overnight. The solvent was then evaporated, the residue was taken up in water, brought to pH 1 with 1N HCl and extracted with AcOEt. The organic phase was dried and the solvent was removed in vacuo, the resulting crude product was purified by flash chromatography, eluting with a mixture Et2O/Hexane 8:2 respectively, yielding 595 mg of the title compound.

reactant | (±)-1-hydroxy-7-[(4-phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 0.00165 mol, 600 mg | OC1=CC=CC2=C1CCC(CC2=O)C(=O)N2CCC(CC2)C2=CC=CC=C2 | C23H25NO3
reactant | K2CO3 | 0.00165 mol, 228 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylbromide | 0.0018 mol, 0.216 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzylbromide | 0.216 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzylbromide | 0.216 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | EtOH | CCO | C2H6O
product | (±)-1-Benzyloxy-7-[(4-phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 595 mg | C(C1=CC=CC=C1)OC1=CC=CC2=C1CCC(CC2=O)C(=O)N2CCC(CC2)C2=CC=CC=C2 | C30H31NO3
